US04988625
Preparation of N,N'-bis (2,4-dinitrophenyl)cystamine
A 25 mL round-bottom flask fitted with a magnetic stirrer was charged with 225 mg (1.0 mmol) of cystamine dihydrochloride, 409 mg (2.2 mmol) 2,4-dinitrofluorobenzene, 25 mg of K2CO3, and 10 mL of H2O. The mixture then stirred in a 75° C. oil bath for 18 h. After cooling, the solvent was decanted from a yellow insoluble sludge. The sludge crystallized on trituration with 10 mL of CH2Cl2. The yellow crystals were washed with additional CH2Cl2 and recrystallized from 0.5 mL of 15:85 H2O/DMF. The isolated product was washed with 1:1 H2O/DMF affording 77 mg of N,N'-bis-(2,4-dinitrophenyl) cystamine, mp 175°-176° C. Calcd for C16H16N6O8S2:C, 39.67; H, 3.31; N, 17.36; S, 13.22. Found: C, 39.74; H, 3.38; N, 17.26; S, 13.48. 200 MHz NMR (DMSO-d6): 3.08 (t, J =6.6, 4H), 3.80 (4 lines, 4H), 7.27 (d, J =9.6, 2H), 8.25 (dd, J =2.8, 9.6, 2H), 8.84 (dd, J =2.8, 0.8, 2H), 8.93 (t, J=5.6, 2H).

reactant | cystamine dihydrochloride | 1.0 mmol, 225 mg | Cl.Cl.NCCSSCCN
reactant | 2,4-dinitrofluorobenzene | 2.2 mmol, 409 mg | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | K2CO3 | 25 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O | 10 mL | O | H2O
product | N,N'-bis (2,4-dinitrophenyl)cystamine | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NCCSSCCNC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C16H16N6O8S2
